US07014890B2
A solution of 4.8 g of 1,1,2,2,8-pentafluoro-1,2-dihydronaphthalene [(Z3) where R1=H] in 75 ml of tetrahydrofuran was mixed with 11 ml of sec-butyllithium (2M in pentane) at a temperature below −75° C. After 3 g of trimethyl borate had been added, the mixture was stirred at the same temperature for 3 hours and subsequently brought to room temperature overnight. After hydrolysis using 10% hydrochloric acid, 150 ml of tert-butyl methyl ether were added, and the organic phase was separated off, washed with water and sodium chloride solution and dried. The 1,1,2,2,8-pentafluoro-1,2-dihydronaphthalene-7-boronic acid obtained was reacted with the equimolar amount of 4-propylbromobenzene, 2 mol-equivalents of sodium carbonate and 1 mol % of tetrakis(triphenylphosphine)palladium(0) in 50 ml of an ethanol/toluene/water 1:2:1 (vol.) mixture by refluxing for one day. After conventional work-up, the organic fraction was subjected to chromatographic purification (silica gel, toluene/heptane 2:1), the product-containing fractions were combined, the solvent mixture was distilled off under reduced pressure, and the residue was recrystallised from acetonitrile, giving 1.6 g of 1,1,2,2,8-pentafluoro-7-(4-propylphenyl)-1,2-dihydronaphthalene.

reactant | 1,1,2,2,8-pentafluoro-1,2-dihydronaphthalene | 4.8 g | FC1(C(C=CC2=CC=CC(=C12)F)(F)F)F | C10H5F5
reactant | sec-butyllithium | 2M, 11 ml | C(C)(CC)[Li]
reactant | trimethyl borate | 3 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tert-butyl methyl ether | 150 ml | COC(C)(C)C | C5H12O
product | 1,1,2,2,8-pentafluoro-1,2-dihydronaphthalene-7-boronic acid | FC1(C(C=CC2=CC=C(C(=C12)F)B(O)O)(F)F)F | C10H6BF5O2
